US09376418B2
Ammonium chloride (22.6 mg, 0.422 mmol) and iron (216 mg, 3.57 mmol) were added to a solution of 1-{6-[3-(morpholin-4-yl)-5-nitrophenyl]pyridin-2-yl}cyclobutanol (250 mg, 0.703 mmol) in ethanol (4.69 mL) and water (2.36 mmol). The reaction mixture was heated to 85° C. for 1 hour, then cooled to room temperature. The reaction was filtered, diluted with water, extracted with ethyl acetate, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography (7:3 ethyl acetate:hexanes, then 100% ethyl acetate) to afford 1-{6-[3-amino-5-(morpholin-4-yl)phenyl]pyridin-2-yl}cyclobutanol as an off-white solid. 1H NMR (500 MHz, CDCl3) δ 7.83 (s, 1H), 7.66-7.58 (m, 1H), 7.56 (d, J=7.5, 1H), 7.36-7.23 (m, 2H), 7.01 (s, 1H), 6.90 (s, 1H), 6.34 (s, 1H), 5.81 (s, 1H), 3.90 (m, 4H), 3.23 (m, 4H), 2.64-2.54 (m, 4H), 2.14-2.08 (m, 1H), 1.96-1.92 (m, 1H).

reactant | Ammonium chloride | 0.422 mmol, 22.6 mg | [Cl-].[NH4+]
reactant | 1-{6-[3-(morpholin-4-yl)-5-nitrophenyl]pyridin-2-yl}cyclobutanol | 0.703 mmol, 250 mg | N1(CCOCC1)C=1C=C(C=C(C1)[N+](=O)[O-])C1=CC=CC(=N1)C1(CCC1)O | C19H21N3O4
reactant | water | 2.36 mmol | O | H2O
solvent | ethanol | 4.69 mL | C(C)O | C2H6O
catalyst | iron | 3.57 mmol, 216 mg | [Fe] | Fe
product | 1-{6-[3-amino-5-(morpholin-4-yl)phenyl]pyridin-2-yl}cyclobutanol | NC=1C=C(C=C(C1)N1CCOCC1)C1=CC=CC(=N1)C1(CCC1)O | C19H23N3O2
